US07932399B2
1-(5,6-Dichloro-1H-benzoimidazol-2-yl)-2,2,2-trifluoro-1-phenyl-ethanol (#10)
To 1-(5,6-dichloro-1H-benzoimidazol-2-yl)-2,2,2-trifluoro-ethanone (595 mg) in THF (5 mL) at −78° C. was added phenyl magnesium bromide (4.6 mL of 1 M in THF) dropwise. The resulting mixture was stirred at 0° C. for 4 hr. The reaction was quenched with H2O and 1 N HCl, extracted with EtOAc, dried over Na2SO4, filtered, and concentrated to a residue. The residue was purified by flash chromatography with Biotage 40s+ column and elution with 10%-40% EtOAc/hexanes to yield a yellow solid. The yellow solid was dissolved in a minimal amount of CH2Cl2 and triturated with hexanes to yield the title compound as a tan solid.

reactant | 1-(5,6-dichloro-1H-benzoimidazol-2-yl)-2,2,2-trifluoro-ethanone | 595 mg | ClC1=CC2=C(NC(=N2)C(C(F)(F)F)=O)C=C1Cl | C9H3Cl2F3N2O
reactant | phenyl magnesium bromide | 1 M, 4.6 mL | C1(=CC=CC=C1)[Mg]Br
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(5,6-Dichloro-1H-benzoimidazol-2-yl)-2,2,2-trifluoro-1-phenyl-ethanol | ClC1=CC2=C(NC(=N2)C(C(F)(F)F)(O)C2=CC=CC=C2)C=C1Cl | C15H9Cl2F3N2O
